*****************************************************************
* NXP BUK9Y4R8-60E
*
* Polarity N-Channel
* Ratings 60V/4.800000E-003OHMS/100A
*
* Date Created Tue Feb 05 08:41:56 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y4R8-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00244540272864271 TC=0.0136047919107435,-2.73846423444699E-05
RBD 9 4 0.000520328620603303 TC=0.0136047919107435,-2.73846423444699E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.96101065937543e-09
RG 1 2 2.39739376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	390.056
+ -16	402.387
+ -10	437.795
+ -5	475.78
+ -4	492.755
+ -3	520.469
+ -2	615.09
+ -1	725.707
+ -0.5	804.199
+ -0.2	927.965
+ -0.1	1249.665
+ 0	1247.32
+ 0.1	1255.657
+ 0.2	907.58
+ 0.5	751.323
+ 1	630.005
+ 2	479.231
+ 3	414.61
+ 4	384.362
+ 5	366.183
+ 6	353.915
+ 8	337.449
+ 10	325.876
+ 12	316.547
+ 15	304.822
+ 20	288.805
+ 25	275.915
+ 30	265.846
+ 50	242.445




.MODEL MINT NMOS(Vto=2.2 Kp=200 Nfs=350e9 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.08487027144118e-12
+ N=1 M=0.61 VJ=0.54 Fc=0.5 Cjo=2.289048e-09 Tt=2.903204e-08)

.ENDS

